US04455422
2.5 Grams of 6-[1-hydroxy-3-chloropropyl]-3,4-dihydrocarbostyril and 3.0 g of 4-phenyl-1,2,5,6-tetrahydropyridine were mixed in 50 ml of toluene and the mixture was refluxed by heating for 5 hours, then toluene was removed by distillation. To the residue thus obtained was added 50 ml of 5%-sodium hydrogencarbonate aqueous solution and was extracted with chloroform. The chloroform layer was washed with water and dried, then chloroform was removed by distillation. The residue thus obtained was recrystallized from ethanol to obtain 2.1 of 6-[3-(4-phenyl-1,2,5,6-tetrahydropyridyl)-1-propenyl]-3,4-dihydrocarbostyril in light yellow plate-like crystals. Melting point: 182°-183° C. (decomposed).

reactant | 6-[1-hydroxy-3-chloropropyl]-3,4-dihydrocarbostyril | OC(CCCl)C=1C=C2CCC(NC2=CC1)=O | C12H14ClNO2
reactant | 4-phenyl-1,2,5,6-tetrahydropyridine | 3.0 g | C1(=CC=CC=C1)C1=CCNCC1 | C11H13N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-[3-(4-phenyl-1,2,5,6-tetrahydropyridyl)-1-propenyl]-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C1=CCN(CC1)CC=CC=1C=C2CCC(NC2=CC1)=O | C23H24N2O
